US07982071B2
Addition of acetonitrile to 3-(3-hydroxypropoxy)benzaldehyde gave 3-hydroxy-3-[3-(3-hydroxypropoxy)phenyl]propionitrile as yellow oil. Yield (1.80 g, 45%): 1H NMR (400 MHz, CDCl3) δ 7.28-7.33 (m, 1H), 6.94-6.99 (m, 2H), 6.89 (dd, J=8.2, 2.0 Hz, 1H), 4.15 (t, J=6.0 Hz, 2H), 3.87 (t, J=6.0 Hz, 2H), 2.77 (d, J=6.0 Hz, 2H), 2.02-2.09 (m, 3H).

reactant | 3-(3-hydroxypropoxy)benzaldehyde | OCCCOC=1C=C(C=O)C=CC1 | C10H12O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-hydroxy-3-[3-(3-hydroxypropoxy)phenyl]propionitrile | OC(CC#N)C1=CC(=CC=C1)OCCCO | C12H15NO3
